US04219219
A mixture of 25 g (0.182 mol) of salicylamide, 30 g (0.163 mol) of benzhydrol, 30 g (0.158 mol) of p-toluenesulfonic acid and 200 ml of acetic acid was refluxed for 3 hours with heating. After cooling, the precipitated white crystals were separated by filtration and washed with water to obtain 5-diphenylmethylsalicylamide. Thereafter 40 g of sodium hydroxide in 100 ml of water were added and the mixture was heated on a steam bath for 6 hours with stirring. After being allowed to cool, the mixture was acidified using diluted hydrochloric acid to obtain 40 g of a crude product comprising 5-diphenylmethylsalicylic acid, Compound (2). When the crude product was recrystallized using diluted methanol, it had a melting point of 190° to 191.5° C. The resulting Compound (2) was converted into the zinc salt by the same process as that described in Synthesis Example 2.

reactant | salicylamide | 0.182 mol, 25 g | C(C=1C(O)=CC=CC1)(=O)N | C7H7NO2
reactant | benzhydrol | 0.163 mol, 30 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)O | C13H12O
reactant | p-toluenesulfonic acid | 0.158 mol, 30 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 5-diphenylmethylsalicylamide | C1(=CC=CC=C1)C(C1=CC=C(C(C(=O)N)=C1)O)C1=CC=CC=C1 | C20H17NO2
